US08431695B2
Preparation of 5-(2-Benzyl-2H-indazol-6-yl)-7-(4-thiomorpholin-4-ylmethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine
Using a procedure similar to that of Example 282, step 2, with 5-(2-benzyl-2H-indazol-6-yl)-7-(4-bromomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine and thiomorpholine as starting materials, 19 mg (6%) of the desired product was isolated. 1H NMR (300 MHz, DMSO-d6) δ 8.60 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 3.60 (d, 2 H), 2.6 (t, 8 H); ES-MS m/z 532.07 [M+H]+, HPLC RT (min) 2.34.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(4-bromomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)CBr | C27H21BrN6
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | 5-(2-Benzyl-2H-indazol-6-yl)-7-(4-thiomorpholin-4-ylmethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 19 mg, 6% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)CN2CCSCC2 | C31H29N7S
